US08703798B2
Synthesis of 1-Phenyl-5-Iodo-pentane:
A mixture of 5-phenyl-pentane-1-ol (1.0 gm, 6.089 mmol) in dichloromethane (20 ml), triphenyl phosphine (2.35 gm, 8.52 mmol), imidazole (0.58 gm, 8.52 mmol) and elemental iodine (2.16 gm, 8.52 mmol) was stirred at room temperature for 12 h and solvent was removed under reduced pressure. The crude mixture was taken up in ethyl acetate (30 ml), washed with water (20 ml) and then with brine (30 ml). The layers were separated, the organic layer was dried over anhydrous sodium sulfate and solvent was removed under reduced pressure. The crude product was purified on column chromatography using hexane as an eluent to yield an oily liquid, 750 mg. 1H NMR (CDCl3): δ 1.30-1.70 (m, 4H), 1.80 (m, 2H), 2.6 (t, 2H, J=7.2 Hz), 3.10 (t, 2H, J=7.8 Hz), 7.00-7.34 (m, 5H).

reactant | 5-phenyl-pentane-1-ol | 6.089 mmol, 1.0 gm | C1(=CC=CC=C1)CCCCCO | C11H16O
reactant | triphenyl phosphine | 8.52 mmol, 2.35 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 8.52 mmol, 0.58 gm | N1C=NC=C1 | C3H4N2
reactant | iodine | 8.52 mmol, 2.16 gm | II | I2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-Phenyl-5-Iodo-pentane | C1(=CC=CC=C1)CCCCCI | C11H15I
